US09353107B2
Step-ii: tert-butyl 4-(2-amino-4-bromophenyl)-5,6-dihydropyridine-1(2H)-carboxylate
Using similar reaction conditions as described in step ii of Intermediate-27, tert-butyl 4-(4-bromo-2-nitrophenyl)-5,6-dihydropyridine-1(2H)-carboxylate (450 mg, 1.17 mmol) was reduced using zinc dust (610 mg, 9.39 mmol) and ammonium chloride (1.0 g, 18.72 mmol) in THF/water 10/5 ml to afford 300 mg (72.4% yield) of the titled product after purification with (60/120 silica gel) column chromatography using 30% ethyl acetate in hexane as eluent. MS: m/z=295.1 (M-Boc+1).

reactant | tert-butyl 4-(4-bromo-2-nitrophenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.17 mmol, 450 mg | BrC1=CC(=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C16H19BrN2O4
reactant | ammonium chloride | 18.72 mmol, 1.0 g | [Cl-].[NH4+]
solvent | THF water | C1CCOC1.O
catalyst | zinc | 9.39 mmol, 610 mg | [Zn] | Zn
product | tert-butyl 4-(2-amino-4-bromophenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 300 mg, 72.4% yield | NC1=C(C=CC(=C1)Br)C1=CCN(CC1)C(=O)OC(C)(C)C | C16H21BrN2O2
